US07214638B2
Ethylene/1-Octene Copolymerization
A stirred 3.8 liter reactor was charged with 1450 g of Isopar-E™ mixed alkanes solvent (available from Exxon Chemicals Inc.) and 126 g of 1-octene comonomer. Hydrogen (10 mMol) was added as a molecular weight control agent using a mass flow meter. The reactor was heated to the polymerization temperature of 130° C. and saturated with ethylene at 450 psig (3.1 MPa). Catalyst, (t-butylamido)dimethyl(η5-tetramethylcyclopentadienyl)silanetitanium (II) η4-1,3-pentadiene (A), and cocatalyst, trispentafluorophenylborane (FAB), were dissolved in Isopar E™ and premixed in a drybox with the aluminum tertiary component, and transferred to a catalyst addition system and injected into the reactor over approximately 3 minutes using a flow of high pressure Isopar E™ solvent. The polymerization conditions were maintained for 10 minutes with ethylene supplied on demand to maintain 450 psig reactor pressure. The ethylene consumed during the reaction was monitored using a mass flow meter and this consumption was used to calculate the catalyst efficiency.

reactant | 1-octene | 126 g | C=CCCCCCC | C8H16
reactant | Hydrogen | 10 mMol | [H][H] | H2
reactant | ethylene | C=C | C2H4
reactant | aluminum | [Al] | Al
product | Ethylene/1-Octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
